US08623885B2
Synthesis of tert-butyl 8-methyl-2-(((trifluoromethyl)sulfonyl)oxy)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate
To a solution of tert-butyl 8-methyl-2-oxo-1,2,7,8-tetrahydro-1,6-naphthyridine-6(5H)-carboxylate (129 mg, 0.49 mmol) and pyridine (120 μL, 1.47 mmol) in DCM (10 mL) at 0° C. was added dropwise trifluoromethanesulfonic anhydride (commercially available from Sigma-Aldrich, St. Louis, Mo.) (99 μL, 0.59 mmol). The reaction mixture was stirred for 30 minutes and then concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with 0% to 40% EtOAc in hexane to give the title compound (161 mg, 83% yield). LC/MS m/z: 397 (M+1).

reactant | tert-butyl 8-methyl-2-oxo-1,2,7,8-tetrahydro-1,6-naphthyridine-6(5H)-carboxylate | 0.49 mmol, 129 mg | CC1CN(CC=2C=CC(NC12)=O)C(=O)OC(C)(C)C | C14H20N2O3
reactant | pyridine | 1.47 mmol, 120 μL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 8-methyl-2-(((trifluoromethyl)sulfonyl)oxy)-7,8-dihydro-1,6-naphthyridine-6(5H)-carboxylate | 161 mg, 83% yield | CC1CN(CC=2C=CC(=NC12)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C15H19F3N2O5S
